US07084166B2
Preparation of 1,1-di(indol-3-yl)-4-hydroxy-butane (ST 1707).
The compound was prepared in the same way as described in example 2/4, starting from indole and 2-methoxy-tetrahydrofuran.

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2-methoxy-tetrahydrofuran | COC1OCCC1 | C5H10O2
product | 1,1-di(indol-3-yl)-4-hydroxy-butane | N1C=C(C2=CC=CC=C12)C(CCCO)C1=CNC2=CC=CC=C12 | C20H20N2O
